US07344702B2
Synthesis of 6-Fluoro-4-(2-(4-tert-butylphenyl) ethoxy) quinazoline
To a 25 ml round bottom flask is added potassium fluoride (82.6 mg, 1.42 mmol) and kryptofix 222 (0.53 g, 1.42 mmol). The above mixture is stirred in THF for 20 minutes after which 6-Nitro-4-(2-(4-tert-butylphenyl) ethoxy) quinazoline (0.1 g, 0.284 mmol) is added to it. The solution is refluxed for 30 minutes after which it is cooled and water is added to it. It is then extracted in dichloromethane, washed with water and dried. Purification by flash chromatography (silica gel; ethyl acetate/hexanes) gives the above compound.

reactant | potassium fluoride | 1.42 mmol, 82.6 mg | [F-].[K+]
reactant | kryptofix 222 | 1.42 mmol, 0.53 g | C1COCCOCCN2CCOCCOCCN1CCOCCOCC2 | C18H36N2O6
reactant | 6-Nitro-4-(2-(4-tert-butylphenyl) ethoxy) quinazoline | 0.284 mmol, 0.1 g | [N+](=O)([O-])C=1C=C2C(=NC=NC2=CC1)OCCC1=CC=C(C=C1)C(C)(C)C | C20H21N3O3
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 6-Fluoro-4-(2-(4-tert-butylphenyl) ethoxy) quinazoline | FC=1C=C2C(=NC=NC2=CC1)OCCC1=CC=C(C=C1)C(C)(C)C | C20H21FN2O
